US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (100 mg, 0.4 mmol) was added N,N-diisopropylethylamine (130 mg, 1 mmol) and 2 mL of dichloromethane. The solution was cooled to <−10° C. Trifluormethanesulfonic anhydride (0.1 mL, 0.6 mmol) was added dropwise. The reaction mixture was stirred at −10° C. for 2 h and was then poured into water. The mixture was extracted with dichloromethane and the combined organic layers were washed with water and dried over sodium sulfate. Removal of the solvent gave 145 mg (95% yield) of 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 0.4 mmol, 100 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C14H16O4
reactant | N,N-diisopropylethylamine | 1 mmol, 130 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | Trifluormethanesulfonic anhydride | 0.6 mmol, 0.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | O | H2O
product | 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid tert-butyl ester | 145 mg, 95% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C15H15F3O6S
